US08058269B2
The mixture of rac-4-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (900 mg, 1.89 mmol) in trifluoroacetic acid (10 mL) was stirred at room temperature for 0.5 h. Then the solution was concentrated and extracted with dichloromethane. The organic layer was dried over Na2SO4, filtered and concentrated to give 0.6 g of rac-6-chloro-3-(3-chloro-benzyl)-3-piperazin-1-yl-1,3-dihydro-indol-2-one as a yellow solid. MS m/z 376 (M+H)+.

reactant | rac-4-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 1.89 mmol, 900 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C24H27Cl2N3O3
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | rac-6-chloro-3-(3-chloro-benzyl)-3-piperazin-1-yl-1,3-dihydro-indol-2-one | 0.6 g | ClC1=CC=C2C(C(NC2=C1)=O)(N1CCNCC1)CC1=CC(=CC=C1)Cl | C19H19Cl2N3O
